### PR TITLE
"Junk value" test file

### PR DESCRIPTION
**Pull request by Timeroot**
Add to MathlibTest a file that documents junk values of many functions, and explains some of their motivations and gotchas.

---

Based on the conversation [on Zulip](https://leanprover.zulipchat.com/#narrow/channel/113488-general/topic/Documenting.20lean.20pitfalls.3A.20feedback.20requested/near/520155520).

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: MathlibTest/Junk.lean [hunk 1]
```diff
@@ -0,0 +1,356 @@
...
+Note that similar APIs are duplicated across several types: e.g. `Vector.get`, `Array.getD`,
+`String.get!`, `Option.getD`, etc.
+-/
+#guard_msgs(drop warning) in
+example : [100,200,300,400,500].get! 12 = 0 := by
+  rfl
+
+/- Trying to evaluate the expression lead to a panic. -/
+#guard_msgs(drop error) in
+#eval [100,200,300,400,500].getD 12
```
Comment (plp127) [inline MathlibTest/Junk.lean:281]: This gives me a "failed to synthesize" error, not a panic. Are you sure this is what you meant?

File: MathlibTest/Junk.lean [hunk 2]
```diff
@@ -0,0 +1,356 @@
...
+"evidence") that the index is within bounds, but it will still give the junk `'A'` if it lands in
+the middle of a character. -/
+example :
+    "Hello!".get 0 = 'H' ∧
+    "Hello!".get (.mk 100) = 'A' ∧
+    "Hello!".get! (.mk 100) = 'A' ∧
+    "Hello!".get? (.mk 100) = none ∧
+    "Hello!".get' (.mk 3) (by decide) = 'l' ∧
+    "⋃ℕℐℂ₀𝔻ℰ".get' (.mk 2) (by decide) = 'A' ∧
+    "⋃ℕℐℂ₀𝔻ℰ".get' (.mk 3) (by decide) = 'ℕ'
```
Comment (plp127) [inline MathlibTest/Junk.lean:303]: See the above comment about `default`
```suggestion
    "Hello!".get 0 = 'H' ∧
    "Hello!".get (.mk 100) = default ∧
    "Hello!".get! (.mk 100) = default ∧
    "Hello!".get? (.mk 100) = none ∧
    "Hello!".get' (.mk 3) (by decide) = 'l' ∧
    "⋃ℕℐℂ₀𝔻ℰ".get' (.mk 2) (by decide) = default ∧
    "⋃ℕℐℂ₀𝔻ℰ".get' (.mk 3) (by decide) = 'ℕ' ∧
    default = 'A'
```

**Review by plp127 — DISMISSED** [review]
Thanks!

File: MathlibTest/Junk.lean [hunk 3]
```diff
@@ -0,0 +1,356 @@
...
+/-- Accessing a list `l : List α` with an "out of bounds" index is possible using the syntax `l[i]?` or
+`l[i]!`. These are notations for `GetElem?.getElem?` and `GetElem?.getElem!`, respectively. The
+former is "safe": it returns an `Option α`, which is `Option.none` if the index was out of bounds.
+
+But `getElem!` takes an `Inhabited` instance on the type `α` and uses that as the junk value for
+any extra indexing. In this example, we make a list of two natural numbers `[3, 5]` and access index
+100. This gives the `Inhabited.default` value for `Nat`, which happens to be 0.
+-/
+example : [3, 5][100]! = 0 := by
+  rfl
```
[the remark this answers is not in the document]
Comment (Timeroot) [reply MathlibTest/Junk.lean:248]: Good call, yeah.

File: MathlibTest/Junk.lean (hunk 1 above)
Comment (Timeroot) [inline MathlibTest/Junk.lean:281]: I mean to do:
```suggestion
#eval [100,200,300,400,500].get! 12
```
which causes the panic as an example

File: MathlibTest/Junk.lean [hunk 4]
```diff
@@ -0,0 +1,356 @@
...
+    l.get index = 300 := by
+  rfl
+
+/-- The `getD` operation gets an element with a Nat index, but returns an (explicitly provided)
+default value if out of range. Here, we provide a default value of 37, which is what we then get out
+since we access out-of-bounds at index 12. -/
+example : [100,200,300,400,500].getD 12 37 = 37 := by
+  rfl
+
+/- Finally there's `List.get!`, which gives the default value from `Inhabited` like `getElem!`,
```
Comment (Timeroot) [inline MathlibTest/Junk.lean:267]:
```suggestion
/-- Finally there's `List.get!`, which gives the default value from `Inhabited` like `getElem!`,
```

File: MathlibTest/Junk.lean [hunk 5]
```diff
@@ -0,0 +1,356 @@
...
+and so is equivalent as far as theorem proving goes; but (if run in a program) causes a panic.
+
+This is currently deprecated in favor of `[i]!`, the `getElem!` syntax.
+
+Note that similar APIs are duplicated across several types: e.g. `Vector.get`, `Array.getD`,
+`String.get!`, `Option.getD`, etc.
+-/
+#guard_msgs(drop warning) in
```
[the remark this answers is not in the document]
Comment (Timeroot) [reply MathlibTest/Junk.lean:275]: Ah that's better.

File: MathlibTest/Junk.lean [hunk 6]
```diff
@@ -0,0 +1,356 @@
...
+  simp at h
+
+/- # Find and Nth -/
+
+/-- The function `Nat.nth p n` gives the `n+1`th natural number satisfying a predicate, but if there
+are not this many, it is defined to give the junk index 0. Here, we ask for the 5th prime that's
+less than 10, and find the answer is 0.
+
+`Nat.find` is the "safer" version in the sense that it requires a proof that there are infinitely
+many integers satisfying the condition. -/
```
[the remark this answers is not in the document]
Comment (Timeroot) [reply MathlibTest/Junk.lean]: Yeah, I had some wires crossed.

File: MathlibTest/Junk.lean (hunk 1 above)
Comment (Timeroot) [reply MathlibTest/Junk.lean]: Meant to do `get!` to get the panic.

**Comment by Timeroot** [comment]
This PR has been migrated to a fork-based workflow: https://github.com/leanprover-community/mathlib4/pull/26330
